US05210092
To a solution of 3,4-diaminothiophene (156 mg) in ethanol (10 ml) was added trimethyl orthovalerate (0.29 ml) and pyridinium p-toluenesulfonate (4 mg). The mixture was refluxed for one hour and concentrated in vacuo. The residue was purified by preparative thin layer chromatography on silica gel developed by ethyl acetate to give 2-butyl-1H-thieno[3,4-d]imidazole (155 mg) as crystals.

reactant | 3,4-diaminothiophene | 156 mg | NC1=CSC=C1N | C4H6N2S
reactant | trimethyl orthovalerate | 0.29 ml | C(CCCC)(OC)(OC)OC | C8H18O3
reactant | pyridinium p-toluenesulfonate | 4 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-butyl-1H-thieno[3,4-d]imidazole | 155 mg | C(CCC)C1=NC=2C(N1)=CSC2 | C9H12N2S
